US07053212B2
Step B: Cyclohexanecarboxylic acid (3-hydroxy-benzyl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide
Cyclohexanecarboxylic acid [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amide was deprotected by stirring in a 3:1 solution of ethanol:1N HCl at room temperature for 24 hr. Saturated sodium bicarbonate solution was added until basic, and the aqueous solution was washed with methylene chloride. The organic layer was poured onto a silica gel plug and the product was eluted using a solvent gradient (methylene chloride to 10% methanol/methylene chloride) to obtain the title compound. MS 423.2 (M+1)+

reactant | Cyclohexanecarboxylic acid [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amide | N1(CCCC1)CCOC1=CC=C(C=C1)N(C(=O)C1CCCCC1)CC1=CC(=CC=C1)OC1OCCCC1 | C31H42N2O4
reactant | HCl | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Cyclohexanecarboxylic acid (3-hydroxy-benzyl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide | OC=1C=C(CN(C(=O)C2CCCCC2)C2=CC=C(C=C2)OCCN2CCCC2)C=CC1 | C26H34N2O3
